US05811432
B. 2-Chloro-5-fluoro-3-nitropyridine
To a mixture of phosphorus pentachloride (9.41 g, 45.2 mmol) and phosphorus oxychloride (4.2 mL, 45.1 mmol) at 60° C. was added in portions 5-fluro-2-hydroxy-3-nitropyridine (6.5 g, 41.1 mmol). The mixture was stirred in an oil bath at 100° C. under nitrogen overnight, cooled to room temperature and poured into ice/water. After addition of more water and ethyl acetate, the mixture was filtered through Celite® to remove dark insoluble material. The organic phase was washed with brine, filtered again to remove more dark material, dried over MgSO4 and concentrated. The residue was subjected to flash chromatography on silica gel using chlorform as eluant. Fractions containing the title compound were combined and concentrated to provide a yellow oil (3.51 g, 48%) which solidified on standing at 5° C. overnight.

reactant | phosphorus pentachloride | 45.2 mmol, 9.41 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus oxychloride | 45.1 mmol, 4.2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-fluro-2-hydroxy-3-nitropyridine | 41.1 mmol, 6.5 g | FC=1C=C(C(=NC1)O)[N+](=O)[O-] | C5H3FN2O3
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-5-fluoro-3-nitropyridine | 3.51 g, 48% | ClC1=NC=C(C=C1[N+](=O)[O-])F | C5H2ClFN2O2
